US08207177B2
Step a: 2-[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione
A suspension of (1R,2R)-1-aminoindan-2-ol (1.40 g, 0.00938 mol), phthalic anhydride (1.39 g, 0.00938 mol), and N,N-diisopropylethylamine (1.63 mL, 0.00935 mol) in toluene (141 mL) in a 250 mL round bottom flask equipped with a Dean-Stark trap and condenser was stirred at reflux under an atmosphere of nitrogen 18 h. The reaction mixture was cooled to rt. TLC showed complete conversion of starting material to a higher Rf spot. 1H NMR of an aliquot sample partitioned between EtOAc and water confirmed that reaction was complete. The reaction mixture was concentrated to a pale white and pale brown solid, redissolved in EtOAc (25 mL), washed with 1N HCl (2×10 mL), aqueous saturated NaHCO3 (1×10 mL), and brine (1×10 mL), dried over Na2SO4, filtered, concentrated, and dried on high vacuum to give the product as an off-white solid (2.53 g, 97%). 1H NMR (CDCl3, 400 MHz, δ): 7.86-7.84 (m, 2H), 7.74-7.72 (m, 2H), 7.26-7.25 (m, 2H), 7.20-7.14 (m, 1H), 7.01 (d, J=7.5 Hz, 1H), 5.67 (d, J=6.3 Hz, 1H), 5.14 (m, 1H), 3.58 (dd, J=7.5, 16.1 Hz, 1H), 2.97 (dd, J=6.8, 15.8 Hz, 1H), 2.12 (s, 1H) ppm.

reactant | (1R,2R)-1-aminoindan-2-ol | 0.00938 mol, 1.40 g | N[C@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
reactant | phthalic anhydride | 0.00938 mol, 1.39 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | N,N-diisopropylethylamine | 0.00935 mol, 1.63 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 141 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(1R,2R)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-1H-isoindole-1,3(2H)-dione | 2.53 g, 97% | O[C@H]1[C@@H](C2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C17H13NO3
